US06668527B2
D. (4-Naphthalen-2-yl-phenyl)-acetic acid methyl ester
Tetrakis triphenyphosphine palladium (65 mg, 7.4 mol %) was added to a dimethoxy ethane (5.4 mL) solution of (4-Trifluoromethanesulfonyloxy-phenyl)-acetic acid methyl ester (447 mg, 1.5 mmol), 2-naphthaleneboronic acid (286 mg, 1.67 mmol) and cesium fluoride (505 mg, 3.33 mmol). The reaction was flushed with nitrogen and heated in an oil bath to 100° C. while stirring for 3 hours. The reaction was then diluted with ethyl acetate and extracted with water, 1M sodium hydroxide, water and brine. The organic portion was dried over magnesium sulfate and concentrated in vacuo. The resulting residue was chromatographed on a Biotage Flash 40S column eluting with 5% ethyl acetate in hexanes to give the title compound as a clear oil (273 mg, 66%). 1H NMR (400 MHz, CDCl3) δ8.01-7.38 (m, 11H), 3.72 (s, 3H), 3.69 (2H)

reactant | (4-Trifluoromethanesulfonyloxy-phenyl)-acetic acid methyl ester | 1.5 mmol, 447 mg | COC(CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C10H9F3O5S
reactant | 2-naphthaleneboronic acid | 1.67 mmol, 286 mg | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | cesium fluoride | 3.33 mmol, 505 mg | [F-].[Cs+]
solvent | dimethoxy ethane | 5.4 mL | C(OC)COC | C4H10O2
product | (4-Naphthalen-2-yl-phenyl)-acetic acid methyl ester | 273 mg, 66% | COC(CC1=CC=C(C=C1)C1=CC2=CC=CC=C2C=C1)=O | C19H16O2
